US09216972B2
To a solution of 3-(5-cyclohexyl-4-(trifluoromethyl)isoxazol-3-yl)-4,5-dihydronaphtho[1,2-c]isoxazole-7-carbaldehyde (0.015 g, 0.036 mmol) in methanol (2.0 mL) and 1,2-dichloroethane (2.0 mL) was added azetidine-3-carboxylic acid (3.64 mg, 0.036 mmol) followed by 3 drops of acetic acid (2.16 mg, 0.036 mmol). The reaction mixture was heated at 60° C. for 1.5 h. The reaction mixture was cooled to room temperature, and sodium cyanoborohydride (4.83 mg, 0.077 mmol) was added. The reaction mixture was then stirred at room temperature for 15 minutes, concentrated under vacuum, and the crude residue was partitioned between dichloromethane and water. The dichloromethane extract was concentrated, and the residue was chromatographed using reverse-phase preparative HPLC (Column: LUNA 5 u C18, 21×100 mm:Solvent MeOH(B)—H2O(A), 0.1% TFA: 0% B-100% B, Gradient Time 12 min, Stop Time 20 min, Flow Rate 20 ml/min, Wavelength 220 nM) to give 1-((3-(5-cyclohexyl-4-(trifluoromethyl)isoxazol-3-yl)-4,5-dihydronaphtho[1,2-c]isoxazol-7-yl)methyl)azetidine-3-carboxylic acid TFA (0.008 g, 0.016 mmol, 44%) as a white solid. The product had an HPLC ret. time=3.78 min. (condition B). LC/MS M+1=502.07. 1H NMR (400 MHz, CD3OD) δ ppm 8.04 (1H, d, J=7.70 Hz), 7.52 (2H, m), 4.41 (2H, s), 4.05-4.34 (4H, m), 3.43-3.62 (1H, m), 2.90-3.21 (4H, m), 2.71 (1H, s), 2.01 (2H, br. s.), 1.76 (4H, br. s.), and 1.28-1.57 (4H, m).

reactant | 3-(5-cyclohexyl-4-(trifluoromethyl)isoxazol-3-yl)-4,5-dihydronaphtho[1,2-c]isoxazole-7-carbaldehyde | 0.036 mmol, 0.015 g | C1(CCCCC1)C1=C(C(=NO1)C1=C2C(=NO1)C1=CC=C(C=C1CC2)C=O)C(F)(F)F | C22H19F3N2O3
reactant | azetidine-3-carboxylic acid | 0.036 mmol, 3.64 mg | N1CC(C1)C(=O)O | C4H7NO2
reactant | sodium cyanoborohydride | 0.077 mmol, 4.83 mg | C(#N)[BH3-].[Na+]
reactant | methanol | 2.0 mL | CO | CH4O
solvent | 1,2-dichloroethane | 2.0 mL | ClCCCl | C2H4Cl2
catalyst | acetic acid | 0.036 mmol, 3 drops, 2.16 mg | C(C)(=O)O | C2H4O2
product | 1-((3-(5-cyclohexyl-4-(trifluoromethyl)isoxazol-3-yl)-4,5-dihydronaphtho[1,2-c]isoxazol-7-yl)methyl)azetidine-3-carboxylic acid TFA | 0.016 mmol, 0.008 g, 44% | OC(=O)C(F)(F)F.C1(CCCCC1)C1=C(C(=NO1)C1=C2C(=NO1)C1=CC=C(C=C1CC2)CN2CC(C2)C(=O)O)C(F)(F)F | InChI=1S/C26H26F3N3O4.C2HF3O2/c27-26(28,29)20-22(31-35-23(20)15-4-2-1-3-5-15)24-19-9-7-16-10-14(6-8-18(16)21(19)30-36-24)11-32-12-17(13-32)25(33)34;3-2(4,5)1(6)7/h6,8,10,15,17H,1-5,7,9,11-13H2,(H,33,34);(H,6,7)
